US04562210
A solution of 10.2 g of dimethylcarbamyl chloride in 10 ml of methylene chloride is added dropwise to a mixture of 10.7 g of 2-(1,2-dichlorovinyloxy)phenylsulfonamide, 12.2 g of 1,8-diazabicyclo[5.4.0]undec-7-ene in 100 ml of methylene chloride at 20° to 25° C. and the mixture is refluxed for 2 hours. The solvent is then evaporated off and the residue is dissolved in 5% sodium carbonate solution. The solution is filtered and acidified with 10% hydrochloric acid, whereupon the product precipitates as crystals. After filtration and drying, 12.1 g of N-[2-(1,2-dichlorovinyloxy)phenylsulfonyl]-N',N'-dimethylurea are obtained. Melting point: 218°-220° C.

reactant | dimethylcarbamyl chloride | 10.2 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | 2-(1,2-dichlorovinyloxy)phenylsulfonamide | 10.7 g | ClC(=CCl)OC1=C(C=CC=C1)S(=O)(=O)N | C8H7Cl2NO3S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 12.2 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-[2-(1,2-dichlorovinyloxy)phenylsulfonyl]-N',N'-dimethylurea | 12.1 g | ClC(=CCl)OC1=C(C=CC=C1)S(=O)(=O)NC(=O)N(C)C | C11H12Cl2N2O4S
